US04788206
Hydrolysis of (Z)-5,5-bis(2-fluorophenyl)-2,4-pentadienoic acid ethyl ester (0.4 g) in methanol (5 mL) was carried out as before using 4N sodium hydroxide (0.6 mL). After acidification, the product was extracted into dichloromethane (2×30 mL). The combined dried extracts were evaporated and the residue crystallized from ether-hexane to yield 0.35 g of (Z)-5,5-bis(2-fluorophenyl)-2,4-pentadienoic acid mp 147°-148° C.

reactant | (Z)-5,5-bis(2-fluorophenyl)-2,4-pentadienoic acid ethyl ester | 0.4 g | C(C)OC(\C=C/C=C(C1=C(C=CC=C1)F)C1=C(C=CC=C1)F)=O | C19H16F2O2
reactant | sodium hydroxide | 4N, 0.6 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (Z)-5,5-bis(2-fluorophenyl)-2,4-pentadienoic acid | 0.35 g | FC1=C(C=CC=C1)C(=C\C=C/C(=O)O)C1=C(C=CC=C1)F | C17H12F2O2
